US07109219B2
5-(2-(3-(2-(4-Hydroxy-4-methylpiperidin-1-yl)-2-oxoethyl)ureido)pyridin-4-yloxy)-1H-indole-1-carboxylic acid methylamide
4-Hydoxy-4-methylpiperidine hydrochloride (113 mg, 0.745 mmol) was suspended in N,N-dimethylformamide (3 ml), then triethylamine (1 ml) was added; benzotriazole-1-isooxytris(dimethylamino)phosphonium hexafluorophosphate (201 mg, 0.454 mmol) and ((4-(1-methylcarbamoyl-1H-indol-5-yloxy)pyridin-2-yl)aminocarbonylamino)acetic acid (145 mg, 0.378 mmol) were added thereto; and the reaction mixture was stirred at room temperature for 2 hours. After water was added to the reaction mixture, extraction was performed with ethyl acetate-tetrahydrofuran. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Fuji Silysia NH silica gel; ethyl acetate, ethyl acetate:methanol=20:1, 10:1 in this order). After concentration under reduced pressure, the product was solidified with diethyl ether, suspended, filtered off, washed with diethyl ether, and dried under aeration to yield the title compound (137 mg, 0.285 mmol, 75.4%) as a colorless amorphous solid.

reactant | 4-Hydoxy-4-methylpiperidine hydrochloride | 0.745 mmol, 113 mg | Cl.OC1(CCNCC1)C
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | ((4-(1-methylcarbamoyl-1H-indol-5-yloxy)pyridin-2-yl)aminocarbonylamino)acetic acid | 0.378 mmol, 145 mg | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)NCC(=O)O | C18H17N5O5
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | 5-(2-(3-(2-(4-Hydroxy-4-methylpiperidin-1-yl)-2-oxoethyl)ureido)pyridin-4-yloxy)-1H-indole-1-carboxylic acid methylamide | 0.285 mmol, 137 mg, 75.4% | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)NCC(=O)N1CCC(CC1)(C)O | C24H28N6O5
